US08008487B2
5-Methoxy-4-[1-(4-methoxyphenyl)ethylamino]thieno[2,3-d]pyrimidine-6-carboxylic Acid Ethyl Ester (Compound 51)
A stirred solution of 4-chloro-5-methoxythieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (1.0 g, 3.8 mmol), 1-(4-methoxyphenyl)ethylamine (0.8 g, 5 mmol) and triethylamine (1 mL) in DMF (20 mL) was warmed to 60° C. for 1 hour. The reaction was diluted with water (50 mL) and extracted with ethyl acetate (2×50 mL). The combined organic phases were washed with brine, dried (Na2SO4), filtered and concentrated. The crude product was purified by chromatography over silica gel (25 percent EtOAc in hexanes) affording product as a powder (700 mg, 1.5 mmol).

reactant | 4-chloro-5-methoxythieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 3.8 mmol, 1.0 g | COC(=O)C1=C(C2=C(N=CN=C2Cl)S1)OC | C9H7ClN2O3S
reactant | 1-(4-methoxyphenyl)ethylamine | 5 mmol, 0.8 g | COC1=CC=C(C=C1)C(C)N | C9H13NO
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 5-Methoxy-4-[1-(4-methoxyphenyl)ethylamino]thieno[2,3-d]pyrimidine-6-carboxylic Acid Ethyl Ester | 1.5 mmol, 700 mg | C(C)OC(=O)C1=C(C2=C(N=CN=C2NC(C)C2=CC=C(C=C2)OC)S1)OC | C19H21N3O4S
